US09102662B2
N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2-methanesulfonylamino-4-(4-methyl-piperazin-1-yl)-benzamide hydrochloride [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(4-methyl-piperazin-1-yl)-2-methanesulfonylamino-phenyl] cpd. 48
To a solution of 2-amino-N-[5-(3,5-difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-benzamide (29 mg, 0.04 mmol) in anhydrous dichloromethane (2 mL) and dry pyridine (0.05 mL), methanesulfonyl chloride (14.7 mg, 0.01 mL, 0.13 mmol) was added and the reaction mixture was stirred at room temperature for 8 hours. The mixture was poured into ice and was extracted with dichloromethane. The organic layer was washed with 0.1N HCl, then with water, dried over anhydrous Na2SO4 and concentrated to yield a crude whitish solid that was suspended in dioxane (1 mL). After adding 4M HCl in dioxane (0.1 mL) the suspension was stirred overnight. After concentration the residue was suspended in diethyl ether/MeOH 1:1, stirred for 20 min., filtered, washed with the same solvent mixture and dried. The desired product was obtained as the hydrochloride (15 mg, 0.025 mmol, 63%).

reactant | 2-amino-N-[5-(3,5-difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-benzamide | 0.04 mmol, 29 mg | NC1=C(C(=O)NC2=NN(C3=CC=C(C=C23)CC2=CC(=CC(=C2)F)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)N1CCN(CC1)C | C45H40F2N6O
reactant | methanesulfonyl chloride | 0.13 mmol, 0.01 mL, 14.7 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 4M | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.05 mL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.1 mL | O1CCOCC1 | C4H8O2
product | N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2-methanesulfonylamino-4-(4-methyl-piperazin-1-yl)-benzamide hydrochloride | 0.025 mmol, 15 mg, 63% | Cl.FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NS(=O)(=O)C)=O)C=C(C1)F | InChI=1S/C27H28F2N6O3S.ClH/c1-34-7-9-35(10-8-34)21-4-5-22(25(16-21)33-39(2,37)38)27(36)30-26-23-14-17(3-6-24(23)31-32-26)11-18-12-19(28)15-20(29)13-18;/h3-6,12-16,33H,7-11H2,1-2H3,(H2,30,31,32,36);1H
